* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT inv01 VSS VDD Y A
** N=4 EP=4 IP=0 FDC=2
M0 Y A VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=910 $Y=1820 $D=19
M1 Y A VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=910 $Y=5600 $D=25
.ENDS
***************************************
.SUBCKT xor2 VSS VDD Y A1 A0
** N=10 EP=5 IP=0 FDC=12
M0 7 A0 6 VSS nmos L=1.4e-07 W=7.7e-07 $X=805 $Y=1330 $D=19
M1 VSS A1 7 VSS nmos L=1.4e-07 W=7.7e-07 $X=1225 $Y=1330 $D=19
M2 8 6 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=1785 $Y=1330 $D=19
M3 9 A1 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=2345 $Y=1330 $D=19
M4 8 A0 9 VSS nmos L=1.4e-07 W=7.7e-07 $X=2905 $Y=1330 $D=19
M5 Y 9 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=4025 $Y=1330 $D=19
M6 6 A0 VDD VDD pmos L=1.4e-07 W=1.19e-06 $X=875 $Y=5880 $D=25
M7 VDD A1 6 VDD pmos L=1.4e-07 W=1.19e-06 $X=1435 $Y=5880 $D=25
M8 9 6 VDD VDD pmos L=1.4e-07 W=1.19e-06 $X=1995 $Y=5880 $D=25
M9 10 A1 9 VDD pmos L=1.4e-07 W=2.24e-06 $X=2590 $Y=4830 $D=25
M10 VDD A0 10 VDD pmos L=1.4e-07 W=2.24e-06 $X=3010 $Y=4830 $D=25
M11 Y 9 VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=3605 $Y=4830 $D=25
.ENDS
***************************************
.SUBCKT xnor2 VDD VSS Y A0 A1
** N=9 EP=5 IP=0 FDC=10
M0 7 A0 6 VSS nmos L=1.4e-07 W=7.7e-07 $X=805 $Y=1610 $D=19
M1 VSS A1 7 VSS nmos L=1.4e-07 W=7.7e-07 $X=1225 $Y=1610 $D=19
M2 Y A1 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=2345 $Y=1610 $D=19
M3 8 A0 Y VSS nmos L=1.4e-07 W=7.7e-07 $X=2905 $Y=1610 $D=19
M4 VSS 6 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=3465 $Y=1610 $D=19
M5 6 A0 VDD VDD pmos L=1.4e-07 W=1.19e-06 $X=1175 $Y=4585 $D=25
M6 VDD A1 6 VDD pmos L=1.4e-07 W=1.19e-06 $X=1735 $Y=4585 $D=25
M7 9 A0 VDD VDD pmos L=1.4e-07 W=2.24e-06 $X=2365 $Y=4620 $D=25
M8 Y A1 9 VDD pmos L=1.4e-07 W=2.24e-06 $X=2855 $Y=4585 $D=25
M9 VDD 6 Y VDD pmos L=1.4e-07 W=1.19e-06 $X=3450 $Y=4620 $D=25
.ENDS
***************************************
.SUBCKT oai22 VSS Y VDD B0 B1 A1 A0
** N=10 EP=7 IP=0 FDC=8
M0 VSS B0 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=1295 $Y=1225 $D=19
M1 8 B1 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=1855 $Y=1225 $D=19
M2 Y A1 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=2415 $Y=1225 $D=19
M3 8 A0 Y VSS nmos L=1.4e-07 W=7.7e-07 $X=2975 $Y=1225 $D=19
M4 9 B0 VDD VDD pmos L=1.4e-07 W=2.03e-06 $X=1435 $Y=5265 $D=25
M5 Y B1 9 VDD pmos L=1.4e-07 W=2.03e-06 $X=1855 $Y=5265 $D=25
M6 10 A1 Y VDD pmos L=1.4e-07 W=2.03e-06 $X=2415 $Y=5265 $D=25
M7 VDD A0 10 VDD pmos L=1.4e-07 W=2.03e-06 $X=2835 $Y=5265 $D=25
.ENDS
***************************************
.SUBCKT aoi22 VSS VDD Y A1 A0 B0 B1
** N=10 EP=7 IP=0 FDC=8
M0 8 A1 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=945 $Y=1190 $D=19
M1 Y A0 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=1365 $Y=1190 $D=19
M2 9 B0 Y VSS nmos L=1.4e-07 W=7.7e-07 $X=1925 $Y=1190 $D=19
M3 VSS B1 9 VSS nmos L=1.4e-07 W=7.7e-07 $X=2345 $Y=1190 $D=19
M4 VDD A1 10 VDD pmos L=1.4e-07 W=1.19e-06 $X=805 $Y=6020 $D=25
M5 10 A0 VDD VDD pmos L=1.4e-07 W=1.19e-06 $X=1365 $Y=6020 $D=25
M6 Y B0 10 VDD pmos L=1.4e-07 W=1.19e-06 $X=1925 $Y=6020 $D=25
M7 10 B1 Y VDD pmos L=1.4e-07 W=1.19e-06 $X=2485 $Y=6020 $D=25
.ENDS
***************************************
.SUBCKT nBitAdder VSS VDD CB B[19] B[24] A[6] B[20] A[20] A[19] A[24] B[6] Y[19] Y[11] B[11] Y[24] A[22] A[11] Y[25] Y[20] B[22]
+ Y[7] A[23] Y[6] B[25] B[23] A[25] Y[3] A[15] B[15] B[18] A[18] A[3] B[3] Y[23] Y[22] B[26] A[7] A[26] Y[15] B[7]
+ Y[1] Y[2] B[2] Y[21] Y[18] A[2] A[1] Y[26] A[5] B[5] B[1] B[21] B[12] A[21] Y[12] Y[9] Y[4] B[13] B[9] Y[0]
+ A[13] A[9] A[0] Y[17] Y[14] Y[13] B[0] A[12] A[4] A[29] B[4] B[29] Y[29] B[14] B[28] Y[5] A[10] B[10] A[30] Y[10]
+ B[16] A[28] B[17] A[17] Y[16] Y[30] Y[28] A[16] B[30] A[27] A[31] B[27] B[31] A[14] Y[27] Y[31] B[8] Y[8] A[8]
** N=216 EP=99 IP=702 FDC=1010
M0 2 98 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=60430 $Y=26245 $D=19
M1 3 A[1] 2 VSS nmos L=1.4e-07 W=7.7e-07 $X=60850 $Y=26245 $D=19
M2 4 B[1] 3 VSS nmos L=1.4e-07 W=1.19e-06 $X=61445 $Y=25825 $D=19
M3 5 B[0] 4 VSS nmos L=1.4e-07 W=1.19e-06 $X=61865 $Y=25825 $D=19
M4 VSS A[0] 5 VSS nmos L=1.4e-07 W=1.19e-06 $X=62285 $Y=25825 $D=19
M5 7 192 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=74465 $Y=25825 $D=19
M6 8 B[31] 7 VSS nmos L=1.4e-07 W=7.7e-07 $X=74885 $Y=25825 $D=19
M7 9 A[0] VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=75375 $Y=36560 $D=19
M8 10 A[31] 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=75445 $Y=25825 $D=19
M9 11 B[0] 9 VSS nmos L=1.4e-07 W=7.7e-07 $X=75795 $Y=36560 $D=19
M10 VSS 205 10 VSS nmos L=1.4e-07 W=7.7e-07 $X=75865 $Y=25825 $D=19
M11 CB 8 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=76460 $Y=26245 $D=19
M12 3 98 13 VDD pmos L=1.4e-07 W=1.19e-06 $X=60045 $Y=30655 $D=25
M13 13 A[1] 3 VDD pmos L=1.4e-07 W=1.19e-06 $X=60605 $Y=30655 $D=25
M14 VDD B[1] 13 VDD pmos L=1.4e-07 W=1.19e-06 $X=61165 $Y=30655 $D=25
M15 13 B[0] VDD VDD pmos L=1.4e-07 W=1.19e-06 $X=61725 $Y=30655 $D=25
M16 VDD A[0] 13 VDD pmos L=1.4e-07 W=1.19e-06 $X=62285 $Y=30655 $D=25
M17 14 192 VDD VDD pmos L=1.4e-07 W=1.19e-06 $X=74325 $Y=30655 $D=25
M18 8 A[31] 14 VDD pmos L=1.4e-07 W=1.19e-06 $X=74885 $Y=30655 $D=25
M19 11 A[0] VDD VDD pmos L=1.4e-07 W=1.05e-06 $X=75375 $Y=41530 $D=25
M20 14 205 8 VDD pmos L=1.4e-07 W=1.19e-06 $X=75445 $Y=30655 $D=25
M21 VDD B[0] 11 VDD pmos L=1.4e-07 W=1.05e-06 $X=75935 $Y=41530 $D=25
M22 VDD B[31] 14 VDD pmos L=1.4e-07 W=1.19e-06 $X=76005 $Y=30655 $D=25
M23 CB 8 VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=76600 $Y=30655 $D=25
X24 VSS VDD 25 B[24] inv01 $T=20 -5840 0 0 $X=20 $Y=-5840
X25 VSS VDD 22 B[20] inv01 $T=20 3710 0 0 $X=20 $Y=3710
X26 VSS VDD 29 A[24] inv01 $T=1980 -5840 0 0 $X=1980 $Y=-5840
X27 VSS VDD 37 B[6] inv01 $T=4920 45800 0 0 $X=4920 $Y=45800
X28 VSS VDD 43 A[20] inv01 $T=6880 3710 0 0 $X=6880 $Y=3710
X29 VSS VDD 48 Y[25] inv01 $T=7860 -5840 0 0 $X=7860 $Y=-5840
X30 VSS VDD 24 Y[19] inv01 $T=10310 24635 1 180 $X=8350 $Y=24635
X31 VSS VDD 57 Y[7] inv01 $T=9820 35370 0 0 $X=9820 $Y=35370
X32 VSS VDD 61 A[6] inv01 $T=11780 35370 0 0 $X=11780 $Y=35370
X33 VSS VDD 76 B[18] inv01 $T=17660 3710 0 0 $X=17660 $Y=3710
X34 VSS VDD 75 Y[3] inv01 $T=18150 14150 0 0 $X=18150 $Y=14150
X35 VSS VDD 60 Y[11] inv01 $T=20600 24635 1 180 $X=18640 $Y=24635
X36 VSS VDD 51 Y[23] inv01 $T=22560 24635 1 180 $X=20600 $Y=24635
X37 VSS VDD 83 A[22] inv01 $T=24030 35370 1 180 $X=22070 $Y=35370
X38 VSS VDD 91 B[26] inv01 $T=23050 -5840 0 0 $X=23050 $Y=-5840
X39 VSS VDD 64 Y[15] inv01 $T=26970 14150 1 180 $X=25010 $Y=14150
X40 VSS VDD 89 B[22] inv01 $T=27460 45800 1 180 $X=25500 $Y=45800
X41 VSS VDD Y[1] 98 inv01 $T=28930 14150 1 180 $X=26970 $Y=14150
X42 VSS VDD 105 B[2] inv01 $T=28930 14150 0 0 $X=28930 $Y=14150
X43 VSS VDD 99 A[2] inv01 $T=33340 24635 1 180 $X=31380 $Y=24635
X44 VSS VDD 116 A[26] inv01 $T=34810 -5840 0 0 $X=34810 $Y=-5840
X45 VSS VDD 121 B[12] inv01 $T=36770 35370 0 0 $X=36770 $Y=35370
X46 VSS VDD 151 Y[17] inv01 $T=45590 -5840 0 0 $X=45590 $Y=-5840
X47 VSS VDD 129 Y[21] inv01 $T=47550 14150 1 180 $X=45590 $Y=14150
X48 VSS VDD 140 Y[13] inv01 $T=47550 45800 1 180 $X=45590 $Y=45800
X49 VSS VDD 141 A[18] inv01 $T=48530 3710 1 180 $X=46570 $Y=3710
X50 VSS VDD 125 A[12] inv01 $T=49510 45800 1 180 $X=47550 $Y=45800
X51 VSS VDD 130 B[4] inv01 $T=50490 24635 1 180 $X=48530 $Y=24635
X52 VSS VDD 162 Y[29] inv01 $T=52450 14150 0 0 $X=52450 $Y=14150
X53 VSS VDD 111 Y[5] inv01 $T=55390 3710 1 180 $X=53430 $Y=3710
X54 VSS VDD 147 B[14] inv01 $T=55390 35370 1 180 $X=53430 $Y=35370
X55 VSS VDD 167 B[28] inv01 $T=54410 45800 0 0 $X=54410 $Y=45800
X56 VSS VDD 174 B[10] inv01 $T=58330 -5840 0 0 $X=58330 $Y=-5840
X57 VSS VDD 177 A[30] inv01 $T=59310 14150 0 0 $X=59310 $Y=14150
X58 VSS VDD 180 B[16] inv01 $T=60290 3710 0 0 $X=60290 $Y=3710
X59 VSS VDD 134 A[4] inv01 $T=62740 35370 1 180 $X=60780 $Y=35370
X60 VSS VDD 155 Y[9] inv01 $T=63230 14150 1 180 $X=61270 $Y=14150
X61 VSS VDD 182 A[28] inv01 $T=61270 45800 0 0 $X=61270 $Y=45800
X62 VSS VDD 189 A[16] inv01 $T=68130 3710 1 180 $X=66170 $Y=3710
X63 VSS VDD 187 B[30] inv01 $T=69110 14150 1 180 $X=67150 $Y=14150
X64 VSS VDD 170 A[10] inv01 $T=74500 45800 1 180 $X=72540 $Y=45800
X65 VSS VDD 200 Y[27] inv01 $T=78910 -5840 1 180 $X=76950 $Y=-5840
X66 VSS VDD 149 A[14] inv01 $T=79400 35370 1 180 $X=77440 $Y=35370
X67 VSS VDD 205 Y[31] inv01 $T=80870 14150 1 180 $X=78910 $Y=14150
X68 VSS VDD 212 B[8] inv01 $T=80870 14150 0 0 $X=80870 $Y=14150
X69 VSS VDD 215 A[8] inv01 $T=89200 24635 1 180 $X=87240 $Y=24635
X70 VSS VDD 31 B[20] A[20] xor2 $T=20 14150 0 0 $X=20 $Y=14150
X71 VSS VDD 32 B[6] A[6] xor2 $T=20 45800 0 0 $X=20 $Y=45800
X72 VSS VDD 38 B[24] A[24] xor2 $T=1980 3710 0 0 $X=1980 $Y=3710
X73 VSS VDD 50 B[22] A[22] xor2 $T=6880 45800 0 0 $X=6880 $Y=45800
X74 VSS VDD 88 B[18] A[18] xor2 $T=19620 3710 0 0 $X=19620 $Y=3710
X75 VSS VDD 101 B[26] A[26] xor2 $T=25010 -5840 0 0 $X=25010 $Y=-5840
X76 VSS VDD 113 B[2] A[2] xor2 $T=40690 14150 1 180 $X=35790 $Y=14150
X77 VSS VDD Y[0] A[0] B[0] xor2 $T=48530 24635 1 180 $X=43630 $Y=24635
X78 VSS VDD 136 B[12] A[12] xor2 $T=52450 14150 1 180 $X=47550 $Y=14150
X79 VSS VDD 160 B[4] A[4] xor2 $T=48530 -5840 0 0 $X=48530 $Y=-5840
X80 VSS VDD 179 B[10] A[10] xor2 $T=56370 45800 0 0 $X=56370 $Y=45800
X81 VSS VDD 199 B[30] A[30] xor2 $T=69110 14150 0 0 $X=69110 $Y=14150
X82 VSS VDD 198 B[16] A[16] xor2 $T=77930 3710 1 180 $X=73030 $Y=3710
X83 VSS VDD 191 B[28] A[28] xor2 $T=79400 45800 1 180 $X=74500 $Y=45800
X84 VSS VDD 197 B[14] A[14] xor2 $T=84300 35370 1 180 $X=79400 $Y=35370
X85 VSS VDD 213 B[8] A[8] xor2 $T=89200 45800 1 180 $X=84300 $Y=45800
X86 VDD VSS Y[19] 20 26 xnor2 $T=20 35370 0 0 $X=20 $Y=35370
X87 VDD VSS 39 A[11] B[11] xnor2 $T=8350 24635 1 180 $X=3450 $Y=24635
X88 VDD VSS Y[20] 28 31 xnor2 $T=4920 14150 0 0 $X=4920 $Y=14150
X89 VDD VSS Y[11] 46 39 xnor2 $T=9820 35370 1 180 $X=4920 $Y=35370
X90 VDD VSS Y[6] 65 32 xnor2 $T=16680 45800 1 180 $X=11780 $Y=45800
X91 VDD VSS Y[24] 34 38 xnor2 $T=12760 3710 0 0 $X=12760 $Y=3710
X92 VDD VSS 71 A[25] B[25] xnor2 $T=13250 -5840 0 0 $X=13250 $Y=-5840
X93 VDD VSS 26 A[19] B[19] xnor2 $T=13740 24635 0 0 $X=13740 $Y=24635
X94 VDD VSS Y[3] 80 74 xnor2 $T=21580 45800 1 180 $X=16680 $Y=45800
X95 VDD VSS Y[25] 40 71 xnor2 $T=23050 -5840 1 180 $X=18150 $Y=-5840
X96 VDD VSS 86 A[15] B[15] xnor2 $T=20110 14150 0 0 $X=20110 $Y=14150
X97 VDD VSS 74 A[3] B[3] xnor2 $T=22560 24635 0 0 $X=22560 $Y=24635
X98 VDD VSS 94 A[7] B[7] xnor2 $T=24030 35370 0 0 $X=24030 $Y=35370
X99 VDD VSS Y[21] 56 96 xnor2 $T=24520 3710 0 0 $X=24520 $Y=3710
X100 VDD VSS Y[22] 87 50 xnor2 $T=32360 45800 1 180 $X=27460 $Y=45800
X101 VDD VSS Y[18] 108 88 xnor2 $T=34320 3710 1 180 $X=29420 $Y=3710
X102 VDD VSS Y[26] 52 101 xnor2 $T=29910 -5840 0 0 $X=29910 $Y=-5840
X103 VDD VSS Y[15] 72 86 xnor2 $T=35790 14150 1 180 $X=30890 $Y=14150
X104 VDD VSS 118 A[1] B[1] xnor2 $T=32850 45800 0 0 $X=32850 $Y=45800
X105 VDD VSS Y[2] 3 113 xnor2 $T=38240 24635 1 180 $X=33340 $Y=24635
X106 VDD VSS 96 A[21] B[21] xnor2 $T=39220 3710 1 180 $X=34320 $Y=3710
X107 VDD VSS Y[9] 131 127 xnor2 $T=43630 24635 1 180 $X=38730 $Y=24635
X108 VDD VSS 127 A[9] B[9] xnor2 $T=45590 -5840 1 180 $X=40690 $Y=-5840
X109 VDD VSS Y[12] 58 136 xnor2 $T=40690 14150 0 0 $X=40690 $Y=14150
X110 VDD VSS 159 A[29] B[29] xnor2 $T=48530 35370 0 0 $X=48530 $Y=35370
X111 VDD VSS Y[13] 128 158 xnor2 $T=49510 45800 0 0 $X=49510 $Y=45800
X112 VDD VSS 163 A[23] B[23] xnor2 $T=50490 24635 0 0 $X=50490 $Y=24635
X113 VDD VSS Y[4] 77 160 xnor2 $T=53430 -5840 0 0 $X=53430 $Y=-5840
X114 VDD VSS Y[5] 117 171 xnor2 $T=54410 14150 0 0 $X=54410 $Y=14150
X115 VDD VSS Y[7] 70 94 xnor2 $T=60780 35370 1 180 $X=55880 $Y=35370
X116 VDD VSS Y[29] 172 159 xnor2 $T=67640 35370 1 180 $X=62740 $Y=35370
X117 VDD VSS 158 A[13] B[13] xnor2 $T=63230 24635 0 0 $X=63230 $Y=24635
X118 VDD VSS Y[28] 186 191 xnor2 $T=63230 45800 0 0 $X=63230 $Y=45800
X119 VDD VSS 195 A[17] B[17] xnor2 $T=63720 -5840 0 0 $X=63720 $Y=-5840
X120 VDD VSS Y[14] 142 197 xnor2 $T=67640 35370 0 0 $X=67640 $Y=35370
X121 VDD VSS Y[16] 66 198 xnor2 $T=68130 3710 0 0 $X=68130 $Y=3710
X122 VDD VSS Y[17] 184 195 xnor2 $T=73520 -5840 1 180 $X=68620 $Y=-5840
X123 VDD VSS Y[23] 63 163 xnor2 $T=73520 24635 1 180 $X=68620 $Y=24635
X124 VDD VSS Y[30] 168 199 xnor2 $T=78910 14150 1 180 $X=74010 $Y=14150
X125 VDD VSS Y[31] 192 209 xnor2 $T=78420 3710 0 0 $X=78420 $Y=3710
X126 VDD VSS 209 A[31] B[31] xnor2 $T=78420 24635 0 0 $X=78420 $Y=24635
X127 VDD VSS 211 A[27] B[27] xnor2 $T=78910 -5840 0 0 $X=78910 $Y=-5840
X128 VDD VSS 98 11 118 xnor2 $T=79400 45800 0 0 $X=79400 $Y=45800
X129 VDD VSS 171 A[5] B[5] xnor2 $T=87730 14150 1 180 $X=82830 $Y=14150
X130 VDD VSS Y[27] 124 211 xnor2 $T=88710 -5840 1 180 $X=83810 $Y=-5840
X131 VDD VSS Y[10] 157 179 xnor2 $T=88710 3710 1 180 $X=83810 $Y=3710
X132 VDD VSS Y[8] 107 213 xnor2 $T=84300 35370 0 0 $X=84300 $Y=35370
X133 VSS 40 VDD 25 34 Y[24] 29 oai22 $T=3940 -5840 0 0 $X=3940 $Y=-5840
X134 VSS 56 VDD 22 28 Y[20] 43 oai22 $T=8840 3710 0 0 $X=8840 $Y=3710
X135 VSS 70 VDD 37 65 Y[6] 61 oai22 $T=13740 35370 0 0 $X=13740 $Y=35370
X136 VSS 63 VDD 89 87 Y[22] 83 oai22 $T=25500 45800 1 180 $X=21580 $Y=45800
X137 VSS 80 VDD 105 3 Y[2] 99 oai22 $T=31380 24635 1 180 $X=27460 $Y=24635
X138 VSS 124 VDD 91 52 Y[26] 116 oai22 $T=36770 -5840 0 0 $X=36770 $Y=-5840
X139 VSS 128 VDD 121 58 Y[12] 125 oai22 $T=37750 45800 0 0 $X=37750 $Y=45800
X140 VSS 117 VDD 130 77 Y[4] 134 oai22 $T=40690 35370 0 0 $X=40690 $Y=35370
X141 VSS 20 VDD 76 108 Y[18] 141 oai22 $T=42650 3710 0 0 $X=42650 $Y=3710
X142 VSS 72 VDD 147 142 Y[14] 149 oai22 $T=48530 35370 1 180 $X=44610 $Y=35370
X143 VSS 46 VDD 174 157 Y[10] 170 oai22 $T=60290 3710 1 180 $X=56370 $Y=3710
X144 VSS 184 VDD 180 66 Y[16] 189 oai22 $T=62250 3710 0 0 $X=62250 $Y=3710
X145 VSS 192 VDD 187 168 Y[30] 177 oai22 $T=63230 14150 0 0 $X=63230 $Y=14150
X146 VSS 172 VDD 167 186 Y[28] 182 oai22 $T=72050 45800 1 180 $X=68130 $Y=45800
X147 VSS 131 VDD 212 107 Y[8] 215 oai22 $T=83320 24635 0 0 $X=83320 $Y=24635
X148 VSS VDD 28 20 B[19] A[19] 24 aoi22 $T=20 24635 0 0 $X=20 $Y=24635
X149 VSS VDD 52 40 B[25] A[25] 48 aoi22 $T=13250 -5840 1 180 $X=9820 $Y=-5840
X150 VSS VDD 34 63 B[23] A[23] 51 aoi22 $T=13740 24635 1 180 $X=10310 $Y=24635
X151 VSS VDD 58 46 B[11] A[11] 60 aoi22 $T=10800 14150 0 0 $X=10800 $Y=14150
X152 VSS VDD 66 72 B[15] A[15] 64 aoi22 $T=17660 14150 1 180 $X=14230 $Y=14150
X153 VSS VDD 77 80 B[3] A[3] 75 aoi22 $T=22070 35370 1 180 $X=18640 $Y=35370
X154 VSS VDD 107 70 B[7] A[7] 57 aoi22 $T=28930 35370 0 0 $X=28930 $Y=35370
X155 VSS VDD 65 117 B[5] A[5] 111 aoi22 $T=36770 35370 1 180 $X=33340 $Y=35370
X156 VSS VDD 87 56 B[21] A[21] 129 aoi22 $T=39220 3710 0 0 $X=39220 $Y=3710
X157 VSS VDD 142 128 B[13] A[13] 140 aoi22 $T=42160 45800 0 0 $X=42160 $Y=45800
X158 VSS VDD 157 131 B[9] A[9] 155 aoi22 $T=48530 3710 0 0 $X=48530 $Y=3710
X159 VSS VDD 168 172 B[29] A[29] 162 aoi22 $T=58820 24635 1 180 $X=55390 $Y=24635
X160 VSS VDD 108 184 B[17] A[17] 151 aoi22 $T=63720 -5840 1 180 $X=60290 $Y=-5840
X161 VSS VDD 186 124 B[27] A[27] 200 aoi22 $T=76950 -5840 1 180 $X=73520 $Y=-5840
.ENDS
***************************************
