* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT mux21 VSS VDD Y S0 A1 A0
** N=12 EP=6 IP=0 FDC=12
M0 VSS S0 7 VSS nmos L=1.4e-07 W=3.5e-07 $X=850 $Y=1610 $D=19
M1 8 S0 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=1445 $Y=1190 $D=19
M2 9 A1 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=1865 $Y=1190 $D=19
M3 10 A0 9 VSS nmos L=1.4e-07 W=7.7e-07 $X=2425 $Y=1190 $D=19
M4 VSS 7 10 VSS nmos L=1.4e-07 W=7.7e-07 $X=2845 $Y=1190 $D=19
M5 Y 9 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=3405 $Y=1190 $D=19
M6 VDD S0 7 VDD pmos L=1.4e-07 W=7.7e-07 $X=850 $Y=5670 $D=25
M7 11 S0 VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=1445 $Y=5670 $D=25
M8 9 A0 11 VDD pmos L=1.4e-07 W=1.54e-06 $X=1865 $Y=5670 $D=25
M9 12 A1 9 VDD pmos L=1.4e-07 W=1.54e-06 $X=2425 $Y=5670 $D=25
M10 VDD 7 12 VDD pmos L=1.4e-07 W=1.54e-06 $X=2845 $Y=5670 $D=25
M11 Y 9 VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=3405 $Y=5670 $D=25
.ENDS
***************************************
.SUBCKT dffr VDD VSS Q D R CLK
** N=23 EP=6 IP=0 FDC=34
M0 7 12 VSS VSS nmos L=1.4e-07 W=1.19e-06 $X=705 $Y=1470 $D=19
M1 8 D 7 VSS nmos L=1.4e-07 W=1.19e-06 $X=1125 $Y=1470 $D=19
M2 9 10 8 VSS nmos L=1.4e-07 W=3.5e-07 $X=1720 $Y=2310 $D=19
M3 VSS 13 9 VSS nmos L=1.4e-07 W=3.5e-07 $X=2140 $Y=2310 $D=19
M4 10 8 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=2735 $Y=1890 $D=19
M5 VSS R 10 VSS nmos L=1.4e-07 W=7.7e-07 $X=3295 $Y=1890 $D=19
M6 11 10 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=3890 $Y=2310 $D=19
M7 VSS CLK 12 VSS nmos L=1.4e-07 W=7.7e-07 $X=5395 $Y=2310 $D=19
M8 13 12 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=5955 $Y=2310 $D=19
M9 15 12 14 VSS nmos L=1.4e-07 W=3.5e-07 $X=7460 $Y=2625 $D=19
M10 16 11 15 VSS nmos L=1.4e-07 W=1.19e-06 $X=8055 $Y=1785 $D=19
M11 VSS 13 16 VSS nmos L=1.4e-07 W=1.19e-06 $X=8475 $Y=1785 $D=19
M12 14 17 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=9070 $Y=1785 $D=19
M13 VSS R 14 VSS nmos L=1.4e-07 W=3.5e-07 $X=9630 $Y=1785 $D=19
M14 17 15 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=10190 $Y=1785 $D=19
M15 VSS 15 QB VSS nmos L=1.4e-07 W=7.7e-07 $X=11345 $Y=1330 $D=19
M16 Q QB VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=11905 $Y=1330 $D=19
M17 19 13 VDD VDD pmos L=1.4e-07 W=2.24e-06 $X=705 $Y=4830 $D=25
M18 8 D 19 VDD pmos L=1.4e-07 W=2.24e-06 $X=1125 $Y=4830 $D=25
M19 20 10 8 VDD pmos L=1.4e-07 W=3.5e-07 $X=1720 $Y=6335 $D=25
M20 VDD 12 20 VDD pmos L=1.4e-07 W=3.5e-07 $X=2140 $Y=6335 $D=25
M21 21 8 VDD VDD pmos L=1.4e-07 W=1.05e-06 $X=2735 $Y=5635 $D=25
M22 10 R 21 VDD pmos L=1.4e-07 W=1.05e-06 $X=3155 $Y=5635 $D=25
M23 11 10 VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=4275 $Y=5915 $D=25
M24 VDD CLK 12 VDD pmos L=1.4e-07 W=1.54e-06 $X=5395 $Y=5180 $D=25
M25 13 12 VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=5955 $Y=5180 $D=25
M26 15 13 14 VDD pmos L=1.4e-07 W=3.5e-07 $X=7460 $Y=4830 $D=25
M27 22 11 15 VDD pmos L=1.4e-07 W=2.24e-06 $X=8055 $Y=4830 $D=25
M28 VDD 12 22 VDD pmos L=1.4e-07 W=2.24e-06 $X=8475 $Y=4830 $D=25
M29 23 17 VDD VDD pmos L=1.4e-07 W=3.5e-07 $X=9070 $Y=4830 $D=25
M30 14 R 23 VDD pmos L=1.4e-07 W=3.5e-07 $X=9490 $Y=4830 $D=25
M31 17 15 VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=10190 $Y=6300 $D=25
M32 VDD 15 QB VDD pmos L=1.4e-07 W=1.54e-06 $X=11345 $Y=5530 $D=25
M33 Q QB VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=11905 $Y=5530 $D=25
.ENDS
***************************************
.SUBCKT ICV_1 1 2 3 4 5 6 7 8 9 10
** N=10 EP=10 IP=12 FDC=46
X0 1 2 6 3 4 5 mux21 $T=17150 0 1 180 $X=12740 $Y=0
X1 2 1 10 7 8 9 dffr $T=0 0 0 0 $X=0 $Y=0
.ENDS
***************************************
.SUBCKT nBitRegister_16 VSS VDD clk Y[3] Y[11] Y[13] Y[14] Y[6] Reset nBitIn[13] nBitIn[14] nBitIn[3] WE Y[10] Y[7] nBitIn[7] nBitIn[0] Y[0] Y[9] Y[12]
+ Y[5] nBitIn[2] Y[2] nBitIn[8] Y[8] nBitIn[11] nBitIn[9] Y[15] nBitIn[1] Y[1] nBitIn[4] Y[4] nBitIn[12] nBitIn[10] nBitIn[6] nBitIn[15] nBitIn[5]
** N=54 EP=37 IP=182 FDC=738
M0 3 Reset VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=13670 $Y=33090 $D=19
M1 3 Reset VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=13670 $Y=36870 $D=25
X2 VSS VDD 25 WE nBitIn[7] Y[7] mux21 $T=17170 31270 0 0 $X=17170 $Y=31270
X3 VSS VDD 29 WE nBitIn[0] Y[0] mux21 $T=21580 31270 0 0 $X=21580 $Y=31270
X4 VSS VDD 36 WE nBitIn[2] Y[2] mux21 $T=29910 -6185 0 0 $X=29910 $Y=-6185
X5 VSS VDD 40 WE nBitIn[8] Y[8] mux21 $T=34320 2865 0 0 $X=34320 $Y=2865
X6 VSS VDD 16 WE nBitIn[9] Y[9] mux21 $T=43140 2865 1 180 $X=38730 $Y=2865
X7 VSS VDD 8 WE nBitIn[11] Y[11] mux21 $T=43140 31270 1 180 $X=38730 $Y=31270
X8 VSS VDD 47 WE nBitIn[1] Y[1] mux21 $T=43140 2865 0 0 $X=43140 $Y=2865
X9 VSS VDD 49 WE nBitIn[4] Y[4] mux21 $T=45350 21815 0 0 $X=45350 $Y=21815
X10 VSS VDD 33 WE nBitIn[15] Y[15] mux21 $T=51960 2865 1 180 $X=47550 $Y=2865
X11 VSS VDD 31 WE nBitIn[10] Y[10] mux21 $T=55880 12320 1 180 $X=51470 $Y=12320
X12 VSS VDD 24 WE nBitIn[5] Y[5] mux21 $T=60290 12320 1 180 $X=55880 $Y=12320
X13 VDD VSS Y[13] 6 3 clk dffr $T=20 2865 0 0 $X=20 $Y=2865
X14 VDD VSS Y[6] 5 3 clk dffr $T=20 31270 0 0 $X=20 $Y=31270
X15 VDD VSS Y[9] 16 3 clk dffr $T=12760 2865 0 0 $X=12760 $Y=2865
X16 VDD VSS Y[5] 24 3 clk dffr $T=17170 -6185 0 0 $X=17170 $Y=-6185
X17 VDD VSS Y[7] 25 3 clk dffr $T=29910 12320 1 180 $X=17170 $Y=12320
X18 VDD VSS Y[10] 31 3 clk dffr $T=29910 21815 1 180 $X=17170 $Y=21815
X19 VDD VSS Y[12] 39 3 clk dffr $T=38730 31270 1 180 $X=25990 $Y=31270
X20 VDD VSS Y[0] 29 3 clk dffr $T=32610 21815 0 0 $X=32610 $Y=21815
X21 VDD VSS Y[2] 36 3 clk dffr $T=47060 -6185 1 180 $X=34320 $Y=-6185
X22 VDD VSS Y[1] 47 3 clk dffr $T=47060 -6185 0 0 $X=47060 $Y=-6185
X23 VDD VSS Y[4] 49 3 clk dffr $T=49760 21815 0 0 $X=49760 $Y=21815
X24 VSS VDD WE nBitIn[3] Y[3] 4 4 3 clk Y[3] ICV_1 $T=20 -6185 0 0 $X=20 $Y=-6185
X25 VSS VDD WE nBitIn[13] Y[13] 6 7 3 clk Y[14] ICV_1 $T=20 12320 0 0 $X=20 $Y=12320
X26 VSS VDD WE nBitIn[14] Y[14] 7 8 3 clk Y[11] ICV_1 $T=20 21815 0 0 $X=20 $Y=21815
X27 VSS VDD WE nBitIn[12] Y[12] 39 33 3 clk Y[15] ICV_1 $T=30400 12320 0 0 $X=30400 $Y=12320
X28 VSS VDD WE nBitIn[6] Y[6] 5 40 3 clk Y[8] ICV_1 $T=43140 31270 0 0 $X=43140 $Y=31270
.ENDS
***************************************
